US04503244
A mixture of 25 g (0.09 mol) of p-decyloxybenzoic acid methyl ester and 100 ml of diethylene glycol monomethyl ether was heated for 6 hours to 150° C. with a spatula tip of sodium methanolate. After the excess diethylene glycol monomethyl ether had been distilled off, the residue was taken up in methylene chloride, the solution was washed with water, treated with active carbon and concentrated by evaporation. 24.5 g (72%) of slightly contaminated p-decyloxybenzoic acid 2-(2-methoxyethoxy)-ethyl ester were obtained. Purification by column chromatography (SiO2, Merck/methylene chloride+5% of methanol) produced pure ester having a refractive index nD20 of 1.4945.

reactant | p-decyloxybenzoic acid methyl ester | 0.09 mol, 25 g | COC(C1=CC=C(C=C1)OCCCCCCCCCC)=O | C18H28O3
reactant | sodium methanolate | C[O-].[Na+]
solvent | diethylene glycol monomethyl ether | 100 ml | COCCOCCO | C5H12O3
product | p-decyloxybenzoic acid 2-(2-methoxyethoxy)-ethyl ester | COCCOCCOC(C1=CC=C(C=C1)OCCCCCCCCCC)=O | C22H36O5
